US08106020B2
Boc-Val-Gly-OBzl (5.47 g, 15.0 mmol) was added to 4 N HCl/dioxane solution (40 ml), and the mixture was stirred at room temperature for 50 minutes. Dioxane was removed by concentration under reduced pressure, n-hexane (30 ml) was added to the residue, and the mixture was concentrated under reduced pressure. This procedure was repeated 3 times to quantitatively obtain H-Val-Gly-OBzl.HCl. Then, H-Val-Gly-OBzl.HCl and Z-Glu-OBzl (5.57 g, 15.0 mmol) were dissolved in methylene chloride (50 ml), and the solution was kept at 0° C. Triethylamine (2.30 ml, 16.5 mmol), HOBt (1-hydroxybenzotriazole, 2.53 g, 16.5 mmol), and WSC.HCl (1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, 3.16 g, 16.5 mmol) were added to the solution, and the mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in heated ethyl acetate (1500 ml). The solution was washed with water (200 ml), 5% citric acid aqueous solution (200 ml×twice), saturated brine (150 ml), 5% sodium hydrogencarbonate aqueous solution (200 ml×twice), and saturated brine (150 ml). The organic layer was dried over anhydrous magnesium sulfate, then the magnesium sulfate was removed by filtration, and the filtrate was concentrated under reduced pressure. The deposited crystals were collected by filtration, and dried under reduced pressure to obtain white crystals of Z-Glu(Val-Gly-OBzl)-OBzl (6.51 g, 10.5 mmol).

reactant | Boc-Val-Gly-OBzl | 15.0 mmol, 5.47 g | N([C@@H](C(C)C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H28N2O5
reactant | HCl dioxane | 4 N, 40 ml | Cl.O1CCOCC1
reactant | H-Val-Gly-OBzl.HCl | N[C@@H](C(C)C)C(=O)NCC(=O)OCC1=CC=CC=C1.Cl
reactant | Z-Glu-OBzl | 15.0 mmol, 5.57 g | N([C@@H](CCC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C20H21NO6
reactant | Triethylamine | 16.5 mmol, 2.30 ml | C(C)N(CC)CC | C6H15N
reactant | HOBt | 16.5 mmol, 2.53 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 16.5 mmol, 3.16 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Z-Glu(Val-Gly-OBzl)-OBzl | 10.5 mmol, 6.51 g | N([C@@H](CCC(=O)N[C@@H](C(C)C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C34H39N3O8
